US06960586B2
Production of 7-bromo-1-methoxynaphtho[1,2-c]furan-3(1H)-one
A mixture of 6-bromo-1-formyl-2-naphthyl trifluoromethanesulfonate (5.62 g), triethylamine (5.12 mL), methanol (10 mL), palladium acetate (0.20 g), 1,1′-bis(diphenylphosphino)ferrocene (0.49 g) and DMF (30 mL) was stirred under a carbon monoxide atmosphere at room temperature for 3 hrs. The reaction mixture was diluted with ethyl acetate and washed successively with 10% citric acid, water and saturated aqueous sodium hydrogen carbonate, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by column chromatography (carrier: silica gel, developing solvent: hexane-ethyl acetate, 20:1-3:1) to give the title compound (1.66 g) as colorless crystals.

reactant | 6-bromo-1-formyl-2-naphthyl trifluoromethanesulfonate | 5.62 g | FC(S(=O)(=O)OC1=C(C2=CC=C(C=C2C=C1)Br)C=O)(F)F | C12H6BrF3O4S
reactant | triethylamine | 5.12 mL | C(C)N(CC)CC | C6H15N
reactant | methanol | 10 mL | CO | CH4O
reactant | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium acetate | 0.20 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.49 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 7-bromo-1-methoxynaphtho[1,2-c]furan-3(1H)-one | 1.66 g | BrC=1C=C2C=CC3=C(C(OC3=O)OC)C2=CC1 | C13H9BrO3
